US07939532B2
Sodium nitrite (3.45 g, 0.05 mol) was added portion wise to a stirred solution of 6-chloro-pyridin-3-ylamine (6.4 g, 0.05 mol) in acetic acid (56 ml) and HCl (conc) (9.92 ml) while maintaining the temperature below 15° C. This solution was then added drop wise to a stirred solution of sulfur dioxide (17.2 g, 0.27 mol), copper (II) chloride (1.85 g, 0.011 mol) and water (2.2 ml) in acetic acid (37 ml) at 5° C. The reaction mixture was allowed to warm to room temperature and poured over ice water and stirred for a further 15 min. The resultant precipitate was collected by filtration, washed with water and dried overnight in a vacuum oven to give 6-chloro-pyridine-3-sulfonyl chloride (6.41 g, 60.5% yield); (400 MHz; d6-DMSO) 8.54 (1H, d), 7.96 (1H, dd), 7.50 (1H, d).

reactant | Sodium nitrite | 0.05 mol, 3.45 g | N(=O)[O-].[Na+]
reactant | 6-chloro-pyridin-3-ylamine | 0.05 mol, 6.4 g | ClC1=CC=C(C=N1)N | C5H5ClN2
reactant | sulfur dioxide | 0.27 mol, 17.2 g | S(=O)=O | O2S
reactant | water | 2.2 ml | O | H2O
reactant | HCl | 9.92 ml | Cl | ClH
solvent | acetic acid | 56 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 37 ml | C(C)(=O)O | C2H4O2
catalyst | copper (II) chloride | 0.011 mol, 1.85 g | [Cu](Cl)Cl
product | 6-chloro-pyridine-3-sulfonyl chloride | 6.41 g, 60.5% yield | ClC1=CC=C(C=N1)S(=O)(=O)Cl | C5H3Cl2NO2S
